* ============================================================
* Crank speed conditioner -- variable reluctance, pins 52/74/30
* ============================================================
* This is the most safety-critical input on the board. Injection
* timing, speed governing and overspeed shutdown all derive from
* it, and if it stops producing edges on a running engine the ECU
* can no longer time injection at all.
*
* A variable-reluctance sensor is a coil beside a toothed wheel.
* It generates voltage by Faraday induction, which means its
* output amplitude is proportional to how fast the teeth go past:
*
*     1500 rpm, 60 teeth  ->  1500 Hz, roughly 20 V peak
*      150 rpm, cranking  ->   150 Hz, roughly  2 V peak
*
* A 10:1 amplitude swing across the operating range, and the low
* end is the end you need to get the engine started. That single
* fact decides the topology, and it is why a fixed comparator
* threshold is the wrong answer even though it is the obvious one.
*
* Two conditioners are run against both speeds:
*
*   FIXED     comparator at 5 V. Sized sensibly for the running
*             engine -- high enough to ignore electrical noise on
*             a 20 V signal. It cannot see a 2 V cranking signal
*             at all, so the engine never starts.
*
*   ZEROCROSS comparator at 0 V with hysteresis, which is what the
*             real design uses. Amplitude stops mattering: what is
*             detected is the crossing, and a VR sensor's zero
*             crossing is also the point of best timing accuracy,
*             because that is where the waveform's slope is
*             steepest and jitter from noise is smallest.
*
* Hysteresis is +/-0.2 V. It has to be small enough that the 2 V
* cranking signal still crosses both thresholds, and large enough
* to reject noise around the crossing. That tension is the whole
* design of the block.
* ============================================================

* Comparator with hysteresis, modelled as a hysteretic switch
* pulling a resistive load down. Output is inverted (low = input
* above threshold) which does not matter for counting edges.
.model ZCSW  SW(Ron=100 Roff=1e9 Vt=0    Vh=0.2)
.model FIXSW SW(Ron=100 Roff=1e9 Vt=5.0  Vh=0.2)

V33 v33 0 DC 3.3

* ---- running: 1500 rpm, 60 teeth -> 1500 Hz at 20 V peak ----
Vrun run 0 SIN(0 20 1500)
Rsr  run ra 1k
Rlr  ra  0  100k
Szr  zr  0  ra 0 ZCSW
Rzr  v33 zr 4.7k
Sfr  fr  0  ra 0 FIXSW
Rfr  v33 fr 4.7k

* ---- cranking: 150 rpm -> 150 Hz at 2 V peak ----
* Same sensor, same wheel, same harness. Only the speed changed.
Vcrk crk 0 SIN(0 2 150)
Rsc  crk ca 1k
Rlc  ca  0  100k
Szc  zc  0  ca 0 ZCSW
Rzc  v33 zc 4.7k
Sfc  fc  0  ca 0 FIXSW
Rfc  v33 fc 4.7k

.control
* 20 ms covers 30 running-speed teeth and 3 cranking teeth --
* enough of each to count edges and compare against what the
* wheel geometry says they should be.
tran 2u 20m uic
wrdata vr_conditioner.dat v(zr) v(fr) v(zc) v(fc)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE -- what a fixed threshold really costs
* ------------------------------------------------------------
* The fixed-threshold channel produces edges at running speed and
* none at cranking speed. Read as a fault, that is the worst
* possible failure shape: the ECU works perfectly on the bench
* with a signal generator turned up, and the engine will not start
* on the machine.
*
* Not modelled here, and worth knowing before layout:
*
*   - A real VR signal is not a clean sine. Tooth edges and the
*     missing-tooth sync gap distort it, and the gap produces one
*     much larger excursion per revolution.
*   - VR sensors are differential and the pair must be twisted.
*     Pin 52 is Frequency I/P High and pin 74 Frequency I/P Low,
*     so common-mode rejection at the input is doing real work
*     against the injector currents flowing nearby.
*   - Amplitude at true cranking speed can be under a volt on a
*     cold engine with a weak battery, which is exactly when
*     starting matters most. The hysteresis window is what bounds
*     that, and it should be checked against the real sensor
*     rather than against this 2 V estimate.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- tolerance
* ------------------------------------------------------------
* This is the check the paragraph above asks for. The binding
* parameter is not a component's manufacturing spread -- it is the
* VR sensor's own output amplitude at cranking, which the header
* already flags as uncertain (2 V is a mid-estimate; the note above
* says it can be under a volt cold and weak). Re-ran the cranking
* branch at four amplitudes in scratch copies, not this file, all
* else unchanged:
*
*     2 V (nominal)    zero-cross cranking edges = 3   PASS
*     0.8 V (-60%)     zero-cross cranking edges = 3   PASS
*     0.4 V (-80%)     zero-cross cranking edges = 3   PASS
*     0.25 V           zero-cross cranking edges = 3   PASS
*     0.21 V           zero-cross cranking edges = 3   PASS (right at the edge)
*     0.15 V           zero-cross cranking edges = 0   FAILS
*
* The failure point sits almost exactly at Vh, the +/-0.2 V
* hysteresis band -- which is the correct theoretical answer: a
* signal that never gets outside the hysteresis window cannot flip
* the comparator at all, independent of amplitude margin arguments.
* Below that the design has no chance regardless of tuning; above
* it the zero-cross topology does not care how far above.
*
* NOT SENSITIVE, and by a wide margin: the design works down to
* about 1/10th the nominal 2 V estimate, comfortably below even the
* pessimistic "under a volt" figure this block's own RESULT NOTE
* already worried about. The fixed-threshold comparator, for
* contrast, fails at all four amplitudes tried (unsurprising -- it
* already fails at the full 2 V) and was not re-tested for that
* reason; its failure does not depend on amplitude at all, it
* depends on the threshold being set for the running signal's scale.
*
* What this does NOT settle: the real sensor's actual worst-case
* cranking amplitude, which the RESULT NOTE above already says needs
* the real part's data, not this estimate. It settles that WHATEVER
* that number turns out to be, the zero-cross topology has roughly a
* decade of headroom below the 2 V design-time estimate before it
* would matter.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- temperature
* ------------------------------------------------------------
* This is the most safety-critical input on the board, so this
* deserves more than a reflexive "immune" -- confirmed rather than
* assumed. Two candidate mechanisms:
*
* THE COMPARATOR (ZCSW/FIXSW). Confirmed elsewhere in this pass that
* ngspice's SW model does not respond to `option temp=` at all --
* Vt is a fixed parameter. A real comparator IC's threshold does
* drift with temperature, via its input offset voltage's own
* tempco -- typically single-digit microvolts to low tens of
* microvolts per C for this class of part (INFERRED, no part
* chosen), i.e. a few mV of total drift across the whole -40/+125 C
* range. That is two orders of magnitude below the +/-0.2 V
* hysteresis window this design deliberately sized, and the
* TOLERANCE section above already showed the design keeps roughly a
* decade of amplitude margin below the 2 V nominal cranking estimate
* before the hysteresis window itself becomes the limit. A few mV of
* offset drift does not move a check whose failure point is set by
* a 200 mV window with a decade of amplitude margin behind it.
*
* THE SENSOR COIL. A VR sensor is copper wire; its DC resistance
* rises about 0.4%/C (a physical constant, not a part choice) over
* -40/+125 C, i.e. roughly 65% more resistance hot than cold. Against
* a comparator's high input impedance this loads the source
* negligibly -- signal amplitude is set by Faraday induction (speed
* and airgap), not by how much the coil's own resistance drops
* across a load it barely drives. Even if this were entirely wrong
* and coil resistance directly attenuated the signal 1:1, a 65% swing
* is still far inside the 90% (10x) amplitude margin the TOLERANCE
* section already established.
*
* Neither mechanism comes close to threatening this block's verdict.
* The real open question for this input remains what the TOLERANCE
* section already named: the actual sensor's worst-case cranking
* amplitude on real hardware, not anything temperature adds on top.
* ------------------------------------------------------------
